US09023847B2
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using propargylamine instead of tert-butyl-2-amino ethyl carbamate to afford N-(prop-2-yn-1-yl)-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)thiophene-2-carboxamide.

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | propargylamine | C(C#C)N | C3H5N
product | N-(prop-2-yn-1-yl)-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)thiophene-2-carboxamide | C(C#C)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C15H12N4OS
